US08614206B2
CuSO4 (with 5H2O, 65 mg) was added to a mixture of the above made 5-bromo-2-(2-fluorophenyl)pyrimidine-4-carboxylic acid (770 mg, 2.59 mmol) and 28% aqueous ammonium hydroxide (12 ml). The reaction was heated in a microwave reactor at 110° C. for 30 min. It was cooled to RT and concentrated in vacuo. The residue was diluted with 1N HCl (20 mL) and extracted with EtOAc 3×. Combined organic extracts were dried over sodium sulfate and filtered and concentrated to give 5-amino-2-(2-fluorophenyl)pyrimidine-4-carboxylic acid (320 mg, 53%).

reactant | 5-bromo-2-(2-fluorophenyl)pyrimidine-4-carboxylic acid | 2.59 mmol, 770 mg | BrC=1C(=NC(=NC1)C1=C(C=CC=C1)F)C(=O)O | C11H6BrFN2O2
reactant | ammonium hydroxide | 12 ml | [OH-].[NH4+]
catalyst | CuSO4 | 65 mg | [O-]S(=O)(=O)[O-].[Cu+2]
product | 5-amino-2-(2-fluorophenyl)pyrimidine-4-carboxylic acid | 320 mg, 53% | NC=1C(=NC(=NC1)C1=C(C=CC=C1)F)C(=O)O | C11H8FN3O2
